US04272507
330 mg (1 mmole) of 3-(2,6-dichloroanilino)-2-thiophenacetic acid ethyl ester are boiled with 1 g of potassium hydroxide in 5 ml of ethanol for one hour. The mixture is then diluted with 20 ml of water and extracted with 20 ml of methylene chloride. The aqueous solution is acidified, and the precipitate which has formed is filtered off and washed with 3 ml of diisopropyl ether. 3-(2,6-Dichloroanilino)-2-thiophenacetic acid (m. 164° to 168°) is obtained.

reactant | 3-(2,6-dichloroanilino)-2-thiophenacetic acid ethyl ester | 1 mmole, 330 mg | C(C)OC(CC=1SC=CC1NC1=C(C=CC=C1Cl)Cl)=O | C14H13Cl2NO2S
reactant | potassium hydroxide | 1 g | [OH-].[K+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 3-(2,6-Dichloroanilino)-2-thiophenacetic acid | ClC1=C(NC2=C(SC=C2)CC(=O)O)C(=CC=C1)Cl | C12H9Cl2NO2S
